US08044068B2
To a mixture of 2-chloro-4,6-dimethylquinoline (0.40 g), Pd2(dba)3 (0.095 g), (±)-BINAP (0.20 g), (S)-t-butyl 3-amino-4-hydroxypyrrolidine-1-carboxylate (0.51 g), and 1,4-dioxane (8 mL) was added sodium t-butoxide (0.60 g) under nitrogen atmosphere, and the mixture was stirred at 70° C. for 1 h. The reaction mixture was diluted with ethyl acetate and water, the interlayer was removed by Celite filtration, and the organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the solids were washed with ethyl acetate and diisopropyl ether to obtain (3R,4R)-t-butyl 3-(4,6-dimethylquinolin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate (0.39 g). (2) (3R,4R)-t-Butyl 3-(4,6-dimethylquinolin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate (0.39 g) was dissolved in 4 M HCl in 1,4-dioxane (5 mL), and the mixture was stirred at room temperature for 2 h. To the reaction suspension was added diisopropyl ether, the mixture was stirred, and then the solids were collected by filtration to obtain (3R,4R)-4-(4,6-dimethylquinolin-2-ylamino)pyrrolidin-3-ol di hydrochloride (0.32 g).

reactant | 2-chloro-4,6-dimethylquinoline | 0.40 g | ClC1=NC2=CC=C(C=C2C(=C1)C)C | C11H10ClN
reactant | (S)-t-butyl 3-amino-4-hydroxypyrrolidine-1-carboxylate | 0.51 g | N[C@H]1CN(CC1O)C(=O)OC(C)(C)C | C9H18N2O3
reactant | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
reactant | sodium t-butoxide | 0.60 g | CC(C)([O-])C.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 0.095 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3R,4R)-t-butyl 3-(4,6-dimethylquinolin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate | 0.39 g | CC1=CC(=NC2=CC=C(C=C12)C)N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C20H27N3O3
